US03953496
By the procedure similar to that described in Example 23, 2-amino-4-(2'-acetoxybenzamido)-benzoic acid and 2-methoxybenzoylchloride were reacted and treated to obtain crude crystals. Recrystallization from water-ethanol gave 2-(2'-methoxybenzamido)-4-(2'-acetoxybenzamido)-benzoic acid which was identical to that of Example 23.

reactant | 2-amino-4-(2'-acetoxybenzamido)-benzoic acid | NC1=C(C(=O)O)C=CC(=C1)NC(C1=C(C=CC=C1)OC(C)=O)=O | C16H14N2O5
reactant | 2-methoxybenzoylchloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 2-(2'-methoxybenzamido)-4-(2'-acetoxybenzamido)-benzoic acid | COC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(C2=C(C=CC=C2)OC(C)=O)=O)C=CC=C1 | C24H20N2O7
